US05240938
Step A: Preparation of methyl 2-(4-formyl-2-methylphenoxy)phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 0.50 g (3.68 mmol) of 4-hydroxy-3-methylbenzaldehyde was alkylated with 0.926 g (4.05 mmol) of methyl 2-bromophenylacetate to afford 1.00 g (96%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 4-hydroxy-3-methylbenzaldehyde | 3.68 mmol, 0.50 g | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | methyl 2-bromophenylacetate | 4.05 mmol, 0.926 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(4-formyl-2-methylphenoxy)phenylacetate | 1.00 g, 96% | C(=O)C1=CC(=C(OC2=C(C=CC=C2)CC(=O)OC)C=C1)C | C17H16O4
